US04617403
94.8 g of 2,5-dichlorophenylthioglycolic acid are added to 103.2 g of thionyl chloride. 0.24 g of N-methylpyrrolidone is added, and the mixture is heated at 50° C. for 2 hours and is then cooled down to 0° C. At this temperature the 2,5-dichlorophenylthioglycoloyl chloride formed is then added dropwise in the course of 1 hour to a suspension of 160 g of thionyl chloride and 77.2 g of anhydrous aluminum chloride. The suspension is stirred at 0°-5° C. for 1 hour and is then poured onto a mixture of 1,200 g of ice and 800 ml of water, the resulting mixture is stirred at 80° C. for 1 hour and is then filtered with suction, and the filter cake is washed until neutral and dried in vacuo at 50° C. This gives 88.4 g of 94.5% pure 4,7-dichloro-3-oxythionaphthene.

reactant | 2,5-dichlorophenylthioglycolic acid | 94.8 g | ClC1=C(C=C(C=C1)Cl)C(C(=O)O)S | C8H6Cl2O2S
reactant | thionyl chloride | 103.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | N-methylpyrrolidone | 0.24 g | CN1C(CCC1)=O | C5H9NO
product | 2,5-dichlorophenylthioglycoloyl chloride | ClC1=C(C=C(C=C1)Cl)C(C(=O)Cl)S | C8H5Cl3OS
